US06605607B1
7-Hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine, Hydrobromide
7-Methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (10 g) in 48% aqueous hydrobromic acid (350 ml) was allowed to stir at 100° C. for 4 h. The mixture was cooled to 20° C. then evaporated to dryness in vacuo to give the title compound (14.5 g) as a brown solid.

reactant | 7-Methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 10 g | COC1=CC2=C(CCNCC2)C=C1 | C11H15NO
reactant | hydrobromic acid | 350 ml | Br | BrH
product | 7-Hydroxy-2,3,4,5-tetrahydro-1H-3-benzazepine, Hydrobromide | 14.5 g | Br.OC1=CC2=C(CCNCC2)C=C1 | InChI=1S/C10H13NO.BrH/c12-10-2-1-8-3-5-11-6-4-9(8)7-10;/h1-2,7,11-12H,3-6H2;1H
